US07888374B2
2-Chloro-6-ethoxy-pyridin-4-ylamine
To 2,6-dichloro-pyridin-4-ylamine (1.08 g, 6.6 mmol) in ethanol (1.5 mL) was added sodium ethoxide (2.5 M, 2.7 mL, 6.6 mmol) and the mixture was heated in a sealed tube at 150° C. for 6 h. Water was added, and the mixture was extracted with ethyl acetate. The extracts were concentrated and purified by silica gel flash column eluting with 30% ethyl acetate in hexanes to give the titled compound (1.0 g, 88%).

reactant | 2,6-dichloro-pyridin-4-ylamine | 6.6 mmol, 1.08 g | ClC1=NC(=CC(=C1)N)Cl | C5H4Cl2N2
reactant | sodium ethoxide | 6.6 mmol, 2.5 M, 2.7 mL | [O-]CC.[Na+]
reactant | Water | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-Chloro-6-ethoxy-pyridin-4-ylamine | 1.0 g, 88% | ClC1=NC(=CC(=C1)N)OCC | C7H9ClN2O
